Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nickel / Biguanides
 
Attending: ___.
 
Chief Complaint:
Falls, Pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo female with metastatic colon adenocarcinoman, h/o DLBCL, 
admitted from home with falls.  Per patient and daughter, had 
recent fall down stairs about one week ago.  No 
presyncope/syncope, weakness, or imbalance.  Patient is not sure 
why she fell.  Recently seen in urgent care, and set up for 
physical therapy at home (has not yet been receiving home ___.  
PCP has been working with family/patient on pain control at 
home, using low dose oxycontin and oxycodone PRN.  Patient's 
daughter believes this is the reason for her mother's falls.  
Yesterday, patient fell twice in the bathroom, similar to 
previous episode- no clear cause, and no syncope or presyncope.  
She did hit her head, but did not lose consciousness.  Patient's 
daughter believes she fell yesterday because of inadvertent 
Xanax overdosing (one or two tabs, patient thought it was 
oxycodone).  Given these falls, patient was brought to the ED.

In the ED:
97.8 HR 135  BP 113/70  RR 14 96% RA.  no ECG to confirm HR, 
which was soon in the ___, ? inaccurate
received morphine and ceftriaxone for an equivocal urinalysis, 
CT abdomen/pelvis as noted below

Upon arrival to the floor, patient reports only mild lower 
abdominal pain.  She notes recent pain in left shoulder/clavicle 
and intermittent pain in her right hip and mid to low back.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
metastatic colon cancer and lymphoma, currently with recurrent 
colon cancer, metastatic, and status post 6 cycles of FOLFIRI 
with progressive disease on repeat imaging that was performed on 
___.  It seems that the distribution of the 
progression of disease is more compatible with colon cancer than 
it is with a diffuse large cell lymphoma that was treated by Dr. 
___ CEA has risen with imaging disease progression.
Recently sent off request for KRAS testing on her tumor (which 
was removed at the ___.  Per Dr. 
___ she has a KRAS mutation, then we will think about 
regorafenib as a possible or Xeloda as a possible third line 
treatment.  If she is KRAS wild, we will consider giving Erbitux 
or Vectibix for her recurrent colon cancer.  

PAST MEDICAL HISTORY:
anxiety
hypertension
atrial fibrillation, sick sinus syndrome s/p pacemaker 
placement, on warfarin
depression
Type 2 DM

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T 98.2  108/56  HR 64  RR 16  95% RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmers, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, mildly tender in lower quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, gait assessment deferred  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
Vitals: 98.6, 98-114/48-68, 60-85, 95-99% RA
GENERAL: NAD, comfortable
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition
NECK: nontender, supple, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmers, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: moderately distended, only mildly tender in epigastrum, 
hypoactive bowel sounds present in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, gait assessment deferred  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 02:40PM BLOOD WBC-16.2*# RBC-3.87* Hgb-10.6* Hct-33.5* 
MCV-87# MCH-27.4# MCHC-31.5 RDW-18.0* Plt ___
___ 02:40PM BLOOD ___ PTT-70.7* ___
___ 02:40PM BLOOD Glucose-118* UreaN-13 Creat-0.6 Na-133 
K-4.5 Cl-97 HCO3-24 AnGap-17
___ 02:40PM BLOOD ALT-17 AST-37 AlkPhos-121* TotBili-0.4
___ 02:40PM BLOOD Albumin-3.8 Calcium-9.2 Phos-4.2 Mg-2.0
___ 03:40PM BLOOD Hapto-271*

DISCHARGE LABS:
___ 05:30AM BLOOD WBC-8.6 RBC-3.15* Hgb-8.3* Hct-26.8* 
MCV-85 MCH-26.3* MCHC-30.9* RDW-18.8* Plt ___
___ 05:30AM BLOOD Glucose-135* UreaN-17 Creat-0.7 Na-135 
K-3.8 Cl-97 HCO3-29 AnGap-13
___ 05:23AM BLOOD ALT-18 AST-27 LD(LDH)-259* AlkPhos-134* 
TotBili-0.3
___ 05:30AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.2

IMAGING:

CT HEAD ___
No acute intracranial process. While no gross metastases are 
detected, if this is of concern, then MRI with contrast is a 
more sensitive exam.  
 
CT C SPINE ___
No acute fracture or malalignment. 
 
CT ABDOMEN PELVIS ___
1.  Widespread metastatic disease with multiple pulmonary, 
hepatic, and 
diffuse peritoneal metastases with masses encasing the surgical 
margin and sigmoid colon without obstruction, along with 
multiple necrotic mesenteric, pelvic and retroperitoneal lymph 
nodes. 
2.  Moderate to severe right hydronephrosis and hydroureter due 
to obstruction by a large pelvic mass.  
3.  Cystic lesion in the body of the pancreas could reflect a 
metastasis or IPMN. 
4.  Multiple age indeterminate thoracolumbar compression 
fractures without evidence of bony metastasis.  
  
CLAVICLE PLAIN FILM ___
1.  AC joint degenerative changes. 
2.  Left proximal humeral enchondroma, stable. 
 
ABDOMINAL X-RAY ___
Currently, there are several small bowel loops slightly dilated 
up to 3 cm.  Overall, there is paucity of the bowel gas noted, 
but no substantial 
dilatation of the small bowel seen.  Contrast material is noted 
in the large bowel which is dilated up to 4.3 cm, most likely 
reflecting recent, ___ contrast material given for 
CT abdomen. 

 
Brief Hospital Course:
___ yo female with metastatic colon cancer admitted for frequent 
falls and pain control. Hospital course complicated by partial 
SBO.

# Abdominal Pain/Nausea/Vomiting: Likely secondary to underlying 
disease, less likely hydronephrosis. Her nausea and vomiting, 
which worsened during the early part of her hospitalization, was 
likely due to a partial SBO vs ileus as seen on her imaging, 
although it remained unclear how much of this was due to her 
reaction to her pain medications. Her partial SBO was treated 
with octreotide, steroids and bowel rest. At the time of 
discharge her nausea and vomiting were continuing but reasonably 
controlled with anti-emetics. She was tolerating a regular diet. 
Her pain was controlled with PO pain medication and a bowel 
regimen.

# Recurrent metastatic colon cancer/DLBCL: status post 6 cycles 
of FOLFIRI for recurrent metastatic colon cancer (treated by Dr. 
___ at ___), DLBCL treated by Dr. ___. 

# Falls: Likely due to pain medications and polypharmacy, since 
patient and family stated that patient was taking wrong 
medications. Her coumadin was held (see below)

# Coagulopathy: Patient presented with an INR of 10 on 
admission, likely due to inappropriate warfarin dosing or 
compliance. She had evidence of bleeding. Her INR normalized 
with a small dose of PO vitamin K and remained normal. Her 
coumadin was not restarted prior to discharge given her frequent 
falls, although this might be reconsidered on an outpatient 
basis.

# Hydronephrosis: evaluated by urology who feels that if pain is 
not caused by her R flank pain and so would not intervene. They 
noted that if aggressive chemo were planned stent vs. 
nephrostomy could be considered to optimize renal function. 
Since no further chemotherapy is being planned this was not 
further pursued.

# Atrial fibrilation: her coumadin was stopped in setting of 
frequent falls and comfort-focused care. Her beta blocker and 
propafenone were continued.

# Anxiety: She was continued on Xanax prn for anxiety.
# Depression: Continued on SSRI.
# Type 2 DM: Controlled in house with humalog insulin sliding 
scale.

TRANSITIONAL ISSUES:
1. Pain Control: may titrate up as needed
2. Bowel Regimen: may need to further titrate up
3. Review/confirm decision to not restart coumadin

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
hold for sedation, RR < 10 
2. Oxycodone SR (OxyconTIN) 20 mg PO Q12H 
hold for sedation, RR < 10 
3. Propafenone HCl 225 mg PO BID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
hold for SBP < 100, HR < 55 
5. Sertraline 150 mg PO DAILY 
6. glimepiride *NF* 2 mg Oral daily 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. ALPRAZolam 1 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. ALPRAZolam 1 mg PO BID:PRN anxiety 
RX *alprazolam 1 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
2. Metoprolol Succinate XL 25 mg PO DAILY 
hold for SBP < 100, HR < 55 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
3. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*90 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  15 mg PO Q3H:PRN pain 
RX *oxycodone 15 mg 1 tablet(s) by mouth q3h Disp #*120 Tablet 
Refills:*0
5. Oxycodone SR (OxyconTIN) 40 mg PO Q8H 
RX *oxycodone 20 mg 2 tablet(s) by mouth every eight (8) hours 
Disp #*180 Tablet Refills:*0
6. Propafenone HCl 225 mg PO BID 
RX *propafenone ___ mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
7. Sertraline 150 mg PO DAILY 
RX *sertraline 50 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0
8. Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 tab by mouth qidachs Disp #*120 
Tablet Refills:*0
9. Lorazepam 0.5-1 mg SL Q4H:PRN nausea 
RX *lorazepam 0.5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*90 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
metastatic colon cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___.  You have 
a small bowel obstruction, and you will be cared for by home 
hospice.  
 
Followup Instructions:
___